US04005218
To a solution of 39 parts of potassium hydroxide in 39 parts of pyridine is added a solution of 17 parts of 1-chloro-4-nitrobenzene in 46 parts of pyridine. The whole is cooled to -5° C and there is added dropwise a solution of 22 parts of 2,4-dichlorobenzeneacetonitrile in pyridine, while still cooling at -5° C. Upon completion, stirring is continued for 10 hours at 0° C. After the addition of 90 parts of benzene, the product is precipitated. It is filtered off, washed on the filter with benzene and taken up in water. The aqueous mixture is treated with acetic acid, whereupon the product is separated as an oil. The latter is extracted with methylbenzene. The extract is dried, filtered and evaporated. The residue is crystallized from a mixture of methanol, 2,2' -oxybispropane, petroleumether and trichloromethane, yielding 2,4-dichloro-α-(4-nitrophenyl)benzeneacetonitrile; mp. 81°- 82.5° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 1-chloro-4-nitrobenzene | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | 2,4-dichlorobenzeneacetonitrile | ClC1=C(C=CC(=C1)Cl)CC#N | C8H5Cl2N
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,4-dichloro-α-(4-nitrophenyl)benzeneacetonitrile | ClC1=C(C=CC(=C1)Cl)C(C#N)C1=CC=C(C=C1)[N+](=O)[O-] | C14H8Cl2N2O2
